US06969713B2
ii) cis-2-(3,5-Dimethyl-4-(thieno[2,3-d]pyrimidin-4-yl)piperazin-1-yl]-N-(2-trifluoromethylphenyl)acetamide
A mixture of the product from step (i) (0.2 g), 2-trifluoromethylaniline (0.11 g) and N,N-diisopropylethylamine in 1,4-dioxane (5 ml) was heated at 80° C. for 18 hours. LC mass spectrum analysis showed cis-(3,5-dimethyl-4-(thieno[2,3-d]pyrimidin-4-yl)piperazin-1-yl]acetic acid present. PyBroP (0.18 g) and 4-dimethylaminopyridine (0.05 g) were added and the mixture further stirred at room temperature for 18 hours. The solvent was evaporated under reduced pressure and the residue purified by high pressure liquid chromatography (acetonitrile/0.1% aqueous ammonium acetate, gradient elution 25% to 75% organic phase) to give the title product as a white solid. Yield 0.08 g.

reactant | 2-trifluoromethylaniline | 0.11 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | cis-(3,5-dimethyl-4-(thieno[2,3-d]pyrimidin-4-yl)piperazin-1-yl]acetic acid | C[C@@H]1CN(C[C@@H](N1C=1C2=C(N=CN1)SC=C2)C)CC(=O)O | C14H18N4O2S
reactant | PyBroP | 0.18 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | 4-dimethylaminopyridine | 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
product | cis-2-(3,5-Dimethyl-4-(thieno[2,3-d]pyrimidin-4-yl)piperazin-1-yl]-N-(2-trifluoromethylphenyl)acetamide | C[C@@H]1CN(C[C@@H](N1C=1C2=C(N=CN1)SC=C2)C)CC(=O)NC2=C(C=CC=C2)C(F)(F)F | C21H22F3N5OS
